US08198269B2
(5) Synthesis of 5-difluoromethylpyrazine-2-carboxylic acid
Trifluoroacetic acid (1 mL) was added to a solution of t-butyl 5-difluoromethylpyrazine-2-carboxylate (175 mg) in dichloromethane (1 mL), and the mixture was stirred at room temperature for five hours. Ether and 5 N sodium hydroxide were added to the reaction solution. The aqueous layer was separated and made acidic with 5 N hydrochloric acid. Ethyl acetate was added to the aqueous layer, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the insoluble matter was separated by filtration. The filtrate was concentrated to obtain the title compound (100 mg).

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl 5-difluoromethylpyrazine-2-carboxylate | 175 mg | FC(C=1N=CC(=NC1)C(=O)OC(C)(C)C)F | C10H12F2N2O2
reactant | Ether | CCOCC | C4H10O
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-difluoromethylpyrazine-2-carboxylic acid | 100 mg | FC(C=1N=CC(=NC1)C(=O)O)F | C6H4F2N2O2
